US07947738B2
(27-b) 3,4-Dimethyl-3-hydroxy-6-heptenoic acid
Methyl 3,4-dimethyl-3-hydroxy-6-heptenoate (11.7 g, 62.8 mmol) was dissolved in a 2 N potassium hydroxide-methanol solution (44 mL), and the solution was stirred overnight at room temperature. The reaction solution was concentrated, then dissolved in water (30 mL), and washed with ether. The aqueous layer was made acidic (<pH=2) using aqueous hydrochloric acid, followed by two extractions with ethyl acetate. The ethyl acetate layer was washed with saturated saline, then dried, and then concentrated to obtain the compound of interest as an oil substance (10.1 g, 93%). This compound was used in the next reaction without being purified.

reactant | Methyl 3,4-dimethyl-3-hydroxy-6-heptenoate | 62.8 mmol, 11.7 g | CC(CC(=O)OC)(C(CC=C)C)O | C10H18O3
solvent | potassium hydroxide methanol | 2 N, 44 mL | [OH-].[K+].CO
product | 3,4-Dimethyl-3-hydroxy-6-heptenoic acid | CC(CC(=O)O)(C(CC=C)C)O | C9H16O3
